US09233920B2
4-[(E)-3-(3,5-Dichloro-phenyl)-4,4,4-trifluoro-but-2-enoyl]-2-methyl-benzoic acid tert-butyl ester (0.0928 g, 0.198 mmol) and 1-[3,5-bis(trifluoromethyl)phenyl)-3-{(S)[(2S,4S,5R)-5-ethyl-1-aza-bicyclo[2.2.2]oct-2-yl]-(6-methoxy-4-quinolinyl)methyl}thiourea (0.0121 g, 0.020 mmol) were dissolved in nitromethane (0.6 ml) and the resulting solution was stirred at 50° C. for 2.5 days. The reaction mixture was cooled to room temperature and aqueous saturated ammonium chloride was added. The resulting mixture was extracted with dichloromethane (3×) and the combined organic fractions were dried over sodium sulfate. The crude product was purified by flash chromatography (0% to 5% ethyl acetate in cyclohexane) to afford 4-[(R)-3-(3,5-dichloro-phenyl)-4,4,4-trifluoro-3-nitromethyl-butyryl]-2-methyl-benzoic acid tert-butyl ester (0.080 g, 77%) as a beige solid. Chiral HPLC analysis (Chiralpack AS-RH, MeCN:MeOH:H2O=75:5:20, 1 ml/min, retention time 3.26 minutes (major enantiomer), 2.86 minutes (minor enantiomer) indicated that the reaction proceeded with 97.4% enantioselectivity.

reactant | 4-[(E)-3-(3,5-Dichloro-phenyl)-4,4,4-trifluoro-but-2-enoyl]-2-methyl-benzoic acid tert-butyl ester | 0.198 mmol, 0.0928 g | C(C)(C)(C)OC(C1=C(C=C(C=C1)C(\C=C(\C(F)(F)F)/C1=CC(=CC(=C1)Cl)Cl)=O)C)=O | C22H19Cl2F3O3
reactant | 1-[3,5-bis(trifluoromethyl)phenyl)-3-{(S)[(2S,4S,5R)-5-ethyl-1-aza-bicyclo[2.2.2]oct-2-yl]-(6-methoxy-4-quinolinyl)methyl}thiourea | 0.020 mmol, 0.0121 g | FC(C=1C=C(C=C(C1)C(F)(F)F)NC(=S)N[C@@H](C1=CC=NC2=CC=C(C=C12)OC)[C@H]1N2C[C@@H]([C@H](C1)CC2)CC)(F)F | C29H30F6N4OS
reactant | ammonium chloride | [Cl-].[NH4+]
reactant | nitromethane | 0.6 ml | [N+](=O)([O-])C | CH3NO2
product | 4-[(R)-3-(3,5-dichloro-phenyl)-4,4,4-trifluoro-3-nitromethyl-butyryl]-2-methyl-benzoic acid tert-butyl ester | 0.080 g, 77% | C(C)(C)(C)OC(C1=C(C=C(C=C1)C(C[C@](C(F)(F)F)(C[N+](=O)[O-])C1=CC(=CC(=C1)Cl)Cl)=O)C)=O | C23H22Cl2F3NO5
